US09382500B2
1-(5-methylbenzo[d][1,3]dioxol-2-yl)propan-1-one
Obtained in 30% (1st step) and 33% (2nd step) yields from 4-methylcatechol according to the typical procedure described for 1-(5-propyl-1,3-benzodioxol-2-yl)-1-ethanone, except the use of ethyl lithium instead of methyl lithium.

reactant | 1-(5-propyl-1,3-benzodioxol-2-yl)-1-ethanone | C(CC)C1=CC2=C(OC(O2)C(C)=O)C=C1 | C12H14O3
reactant | ethyl lithium | C(C)[Li]
product | 1-(5-methylbenzo[d][1,3]dioxol-2-yl)propan-1-one | CC1=CC2=C(OC(O2)C(CC)=O)C=C1 | C11H12O3
